US05374641
4-Cresol (59 g) was dissolved in 500 ml of methylene chloride, followed by addition of 238 ml of diisopropylethylamine and 66 g of chloromethyl methyl ether, and stirred at room temperature for two nights. The reaction solution was poured into water, which was then extracted with methylene chloride. After washing in 2N hydrogen chloride and then washing in saturated aqueous sodium chloride, the extract was dried over anhydrous sodium sulfate to yield residue. The residue was subjected to chromatography which was eluted with chloroform, to obtain 4-tolyl methoxymethyl ether.

reactant | 4-Cresol | 59 g | C1=CC(=CC=C1O)C | C7H8O
reactant | diisopropylethylamine | 238 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 66 g | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-tolyl methoxymethyl ether | COCOC1=CC=C(C=C1)C | C9H12O2
